US07122545B2
6.00 g 4-Methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid and 3.75 g 1,1′-carbonyl-diimidazole in 360 ml dimethylformamide were stirred at room temperature for 16 hours. 3.36 g 2-amino-cyclohexanone hydrochloride and 3.14 ml triethylamine were added and stirring was continued over night at room temperature. Water was added and the mixture was extracted with ethylacetate. Chromatography on silicagel with ethylacetate/hexane 1:1 to yielded 0.16 g (2%) 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid (2-oxo-cyclohexyl)-amide as a yellow solid; M.p.: 195–197° C.; MS (ISP): m/e=390 (M+H+).

reactant | 4-Methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid | 6.00 g | COC1=CC=C(C2=C1N=C(S2)C(=O)O)N2CCOCC2 | C13H14N2O4S
reactant | 1,1′-carbonyl-diimidazole | 3.75 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-amino-cyclohexanone hydrochloride | 3.36 g | Cl.NC1C(CCCC1)=O
reactant | triethylamine | 3.14 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 360 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid (2-oxo-cyclohexyl)-amide | 0.16 g, 2% | O=C1C(CCCC1)NC(=O)C=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC | C19H23N3O4S
